US04136193
A Grignard-solution prepared from 220 grams (1.15 mol) of p-chlorobromobenzene and 29 grams of magnesium turnings (1.2 mol) in 1500 milliliters of dry ether was added dropwise in the course of one hour to a suspension of 213 grams of 5-bromphthalide (1 mol) in 1500 milliliters of dry tetrahydrofuran. The temperature was not allowed to rise over 10 degrees Centigrade. After the addition was completed the reaction mixture was stirred for three hours at room temperature. The mixture was then poured into 2 liters of icewater and 100 milliliters of saturated aqueous ammonium chloride were added. The etherphase was separated and the water-tetrahydrofuranphase extracted once with 500 milliliters of ether. The etherphase was washed with water, dried over anhydrous magnesiumsulphate, filtered and evaporated in vacuum to yield 320 grams of 2-hydroxymethyl-4-bromo-4'-chloro-benzophenone in the form of a yellow oil which was not purified further but used directly in the next step. The 320 grams of oil were dissolved in 200 milliliters of dry tetrahydrofuran and added dropwise to a great excess of N,N-dimethylaminopropyl magnesium chloride in tetrahydrofuran under gentle reflux. After completed addition the mixture was refluxed over night. The reaction mixture was then poured into 5 liters of icewater and 200 milliliters of saturated aqueous ammonium chloride solution added. The mixture was extracted with a total of 2500 milliliters of ether. The etherphase was then extracted with 20% aqueous acetic acid to acid reaction, whereupon the acetic acid solution was made alkaline with 10 N sodiumhydroxide solution. After cooling, the oil, which separated out, was extracted twice with 500 milliliters of ether. The combined ether extracts were dried over anhydrous potassium carbonate, treated with active carbon and evaporated in vacuum. The remaining oil consists of somewhat impure (4-bromo-2-(hydroxymethyl)phenyl)-(4-chlorophenyl)-(3-dimethylaminopropyl)methanol which was used in the next step without further purification. Yield: 219 grams.

reactant | p-chlorobromobenzene | 1.15 mol, 220 grams | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | magnesium | 1.2 mol, 29 grams | [Mg] | Mg
reactant | 5-bromphthalide | 1 mol, 213 grams | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | ammonium chloride | 100 milliliters | [Cl-].[NH4+]
solvent | ether | 1500 milliliters | CCOCC | C4H10O
solvent | tetrahydrofuran | 1500 milliliters | O1CCCC1 | C4H8O
product | 2-hydroxymethyl-4-bromo-4'-chloro-benzophenone | 320 grams | OCC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC(=C1)Br | C14H10BrClO2
